US05847155
1-(2-Benzoylbenzoyl)-(S)-2-pyrrolidinemethanol
6.78 g (30 mmol) o-benzoylbenzoic acid and 2.96 ml (30 mmol) of S(+)-2-pyrrolidinemethanol were reacted with 4.05 g (30 mmol) 1-hydroxybenzotriazole hydrate and 6.18 g (30 mmol) of DCC in 150 ml methylene chloride as described in Example 25 for the coupling of o-benzoylbenzoic acid with L-proline methyl ester. The crude reaction mixture was washed with 5% sodium bicarbonate solution, dried over anhydrous magnesium sulfate, and the solvent removed in vacuo to afford a yellow residue. Flash chromatograohy on silica gel (20:1/methylene chloride:methanol) afforded the title compound which crystallized from ethyl acetate as a white solid (3.99 g (43%)) by the addition of ether until crystallization took place. TLC (90:10/CH2Cl2 :MeOH): Rf =0.50. mp=113-114. 1H NMR (CDCl3) δ: 7.35-7.80 (9m,5H); 4.40-4.50(m,1H); 3.15-4.20(m,5H); 1.55-2.15(m,4H). I.R. (KBr): 1589, 1603, 1660 cm-1. Standard Combustion Analysis Calculated: C,73.77; H,6.19; N,4.53. Found: C,73.40; H,6.16; N,4.41. High Resolution Mass Spectrum: 309.1378±1.3 ppm (calculated for C19H19 NO3).

reactant | o-benzoylbenzoic acid | 30 mmol, 6.78 g | C(C1=CC=CC=C1)(=O)C1=C(C(=O)O)C=CC=C1 | C14H10O3
reactant | 1-hydroxybenzotriazole hydrate | 30 mmol, 4.05 g | O.ON1N=NC2=C1C=CC=C2
reactant | DCC | 30 mmol, 6.18 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | L-proline methyl ester | COC([C@H]1NCCC1)=O | C6H11NO2
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
product | 1-(2-Benzoylbenzoyl)-(S)-2-pyrrolidinemethanol | C(C1=CC=CC=C1)(=O)C1=C(C(=O)N2[C@@H](CCC2)CO)C=CC=C1 | C19H19NO3
